US07465809B2
4-Amino-5-iodo-2-trifluoromethyl-benzonitrile (936 mg, 3.0 mmol), CuI (I) (57 mg, 0.3 mmol), PdCl2(PPh3)2 (105.3 mg, 0.15 mmol), triethylamine (1.01 g, 10 mmol) and ethynyl-trimethyl-silane (450 mg, 4.5 mmol) were mixed in THF (30 ml). The reaction mixture was stirred at room temperature overnight. Tetrabutylammonium fluoride (1.0 M in THF, 3.0 ml, 3.0 mmol) was added to the reaction mixture, which was then stirred at room temperature for 20 mins. The reaction mixture was quenched by addition of H2O and extracted with ethyl acetate. The organic layers were combined and washed with brine, dried over Na2SO4 and concentrated to yield crude product 4-amino-5-ethynyl-2-trifluoromethyl-benzonitrile.

reactant | 4-Amino-5-iodo-2-trifluoromethyl-benzonitrile | 3.0 mmol, 936 mg | NC1=CC(=C(C#N)C=C1I)C(F)(F)F | C8H4F3IN2
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | ethynyl-trimethyl-silane | 4.5 mmol, 450 mg | C(#C)[Si](C)(C)C | C5H10Si
reactant | Tetrabutylammonium fluoride | 3.0 mmol, 1.0 M, 3.0 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 30 ml | C1CCOC1 | C4H8O
catalyst | CuI | 0.3 mmol, 57 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.15 mmol, 105.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-amino-5-ethynyl-2-trifluoromethyl-benzonitrile | NC1=CC(=C(C#N)C=C1C#C)C(F)(F)F | C10H5F3N2
